US04070366
2,4-Dimethyl-3-acetyl-5-cyclohexyl-pyrrole
A solution of 10 ml of aqueous hydriodic acid, 10 ml of acetic anhydride and 2 ml of 50% hypophosphorous acid was stirred magnetically at 40° C. while 548 mg of 2,4-dimethyl-3-acetyl-pyrrole were dissolved in it, 0.5 ml of cyclohexanone was then added, and an additional 0.5 ml of cyclohexanone was added after a few minutes'. The solution was stirred at 40° C. for 11/2 hrs. then poured into water. The crude product which separated, m.p. 186°-188° C. was recrystallized from ethanol as colourless rhombic prisms (82%), m.p. 188.5°-189° C. after changing to flat prisms above 153° C.

reactant | hydriodic acid | 10 ml | I | HI
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hypophosphorous acid | 2 ml | [PH2](=O)O | H3O2P
reactant | 2,4-dimethyl-3-acetyl-pyrrole | 548 mg | CC=1NC=C(C1C(C)=O)C | C8H11NO
solvent | cyclohexanone | 0.5 ml | C1(CCCCC1)=O | C6H10O
solvent | cyclohexanone | 0.5 ml | C1(CCCCC1)=O | C6H10O
solvent | water | O | H2O
product | 2,4-Dimethyl-3-acetyl-5-cyclohexyl-pyrrole | CC=1NC(=C(C1C(C)=O)C)C1CCCCC1 | C14H21NO
